US20010021718A1
Ethyl 2-((1R)-1 -{2-[(benzyloxy)amino]-2-oxoethyl}4-cyclohexylbutyl)-1,3-oxazole4-carboxylate
A mixture of (3R)-6-cyclohexyl-3-[4-(ethoxycarbonyl)-1,3-oxazol-2-yl]hexanoic acid trifluoroacetate (Preparation 63) (1.66 g, 3.68 mmol), 1,1′-carbonyldiimidazole (0.80 g, 4.93 mmol), O-benzylhydroxylamine hydrochloride (1.57 g, 9.84 mmol) and N,N-diisopropylethylamine (1.71 ml, 9.82 mmol) in anhydrous tetrahydrofuran (10 ml) was stirred at room temperature for 72 hours. The mixture was diluted with ethyl acetate (50 ml) and washed sequentially with a saturated solution of sodium hydrogen carbonate, aqueous citric acid solution (10% w/v) and brine, dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol (98:2) then further purified by column chromatography on silica gel eluting with ethyl acetate:pentane (50:50) to afford the title compound as an orange oil (1.41 g)

reactant | (3R)-6-cyclohexyl-3-[4-(ethoxycarbonyl)-1,3-oxazol-2-yl]hexanoic acid trifluoroacetate | 3.68 mmol, 1.66 g | FC(C(=O)O)(F)F.C1(CCCCC1)CCC[C@H](CC(=O)O)C=1OC=C(N1)C(=O)OCC
reactant | 1,1′-carbonyldiimidazole | 4.93 mmol, 0.80 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | O-benzylhydroxylamine hydrochloride | 9.84 mmol, 1.57 g | Cl.C(C1=CC=CC=C1)ON
reactant | N,N-diisopropylethylamine | 9.82 mmol, 1.71 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-((1R)-1 -{2-[(benzyloxy)amino]-2-oxoethyl}4-cyclohexylbutyl)-1,3-oxazole4-carboxylate | 1.41 g | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC=C(N1)C(=O)OCC)=O | C25H34N2O5
